US06890947B2
Rac-2-Methoxy-3-{1-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl]-1H-indol-5-yl}-propionic Acid
A suspension of 9 mg of (Z)-2-Methoxy-3-{1-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl]-1H-indol-5-yl}-acrylic acid in 2 ml of methanol and 1 ml of dichloromethane and 6 mg of Pd/C 10%) was hydrogenated at 22° C. and 1 bar until hydrogen uptake ceased (2 h). The mixture was filtered, the filtrate evaporated and the residue was purified by HPLC (RP-18, CH3CN/H2O, gradient) to give 7 mg of the title compound as a colorless oil. MS: (M−H)− 403.3.

reactant | (Z)-2-Methoxy-3-{1-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl]-1H-indol-5-yl}-acrylic acid | 9 mg | CO\C(\C(=O)O)=C/C=1C=C2C=CN(C2=CC1)CCC=1N=C(OC1C)C1=CC=CC=C1 | C24H22N2O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 2 ml | CO | CH4O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
catalyst | Pd/C | 6 mg | [Pd] | Pd
product | Rac-2-Methoxy-3-{1-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl]-1H-indol-5-yl}-propionic Acid | 7 mg | COC(C(=O)O)CC=1C=C2C=CN(C2=CC1)CCC=1N=C(OC1C)C1=CC=CC=C1 | C24H24N2O4
